US07776910B2
Sodium ethanethiolate (80%, 218.7 mg, 1.704 mmol) was added to a solution of (S)-3-(4-bromo-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (303 mg, 0.8505 mmol) in DMF (3.1 mL) under argon atmosphere. The reaction mixture was heated at 105° C. for 3.5 hours, then cooled to 5° C. A solution of 10% KHSO4/Na2SO4 was added until pH reached 2-3. Water was added, and the resulting mixture was extracted with EtOAc. The combined organic extracts were washed with water and brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, with a gradient from 90/10 to 85/15) to give 236 mg (81% yield) of (S)-3-(4-bromo-2-hydroxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as a foam.

reactant | Sodium ethanethiolate | 1.704 mmol, 218.7 mg | C(C)[S-].[Na+]
reactant | (S)-3-(4-bromo-2-methoxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.8505 mmol, 303 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=C(C=C(C=C1)Br)OC | C16H22BrNO3
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | Water | O | H2O
solvent | DMF | 3.1 mL | CN(C)C=O | C3H7NO
product | (S)-3-(4-bromo-2-hydroxy-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 236 mg, 81% yield | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=C(C=C(C=C1)Br)O | C15H20BrNO3
